US05102877
To a solution of (2S,4R)-1-(tert-butoxycarbonyl)-4-hydroxy-2-methoxymethylpyrrolidine (2.8 g) and methanesulfonyl chloride (1.12 ml) in dichloromethane (30 ml) was added dropwise triethylamine (2.38 ml) at 0° C. After 30 minutes, the reaction mixture was washed in turn with 1N-hydrochloric acid, water and brine. The organic layer was dried over magnesium sulfate and evaporated to give an oil, which was chromatographed on silica gel (300 ml) eluting with a mixture of hexane and ethyl acetate (1:1, V/V) to give (2S,4R)-1-(tert-butoxycarbonyl)-4-methanesulfonyloxy-2-methoxymethylpyrrolidine (3.61 g).

reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-hydroxy-2-methoxymethylpyrrolidine | 2.8 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)COC | C11H21NO4
reactant | methanesulfonyl chloride | 1.12 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.38 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-(tert-butoxycarbonyl)-4-methanesulfonyloxy-2-methoxymethylpyrrolidine | 3.61 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COC | C12H23NO6S
